US09061013B2
3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid dimethylamide
To a stirred solution of 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (Preparation 4, 0.050 g, 0.098 mmol) in dry DMF (1 mL) was added HATU (0.056 g, 0.147 mmol), HOBt (0.014 g, 0.107 mmol), DIPEA (0.025 g, 0.196 mmol) and saturated solution of dimethyl amine in THF (2 mL) at 0° C. Resulting reaction mixture was stirred 0° C. for 1 hour and at room temperature for 18 hours. After complete consumption of starting material, reaction mixture was quenched with water (5 mL), extracted with EtOAc (10 mL). Organic layer was washed with saturated solution of lithium chloride (2×20 mL), brine (20 mL), dried over sodium sulphate and evaporated in vacuo to get crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 1.2% methanol in DCM to afford sticky mass, which was crystallized by chloroform:pentane (1:9) to afford white solid (0.029 g, 55%). 1H-NMR (400 MHz, CDCl3) δ: 2.53-2.57 (m, 2H), 2.79-2.88 (m, 2H), 3.02 (s, 6H), 3.27-3.31 (m, 1H), 3.67 (d, 1H, J=17.2 Hz), 4.08 (d, 1H, J=17.16 Hz), 5.04 (s, 1H), 7.57 (d, 2H, J=8.4 Hz), 7.64-7.65 (m, 4H); LC-MS (m/z): [M+H] 534.8.

reactant | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid | 0.098 mmol, 0.050 g | OC1(CC(C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H15Cl3F3NO4
reactant | HATU | 0.147 mmol, 0.056 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.107 mmol, 0.014 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.196 mmol, 0.025 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethyl amine | CNC | C2H7N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid dimethylamide | 0.029 g, 55% | CN(C(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)O)C | C23H20Cl3F3N2O3
